US04668697
Step B: Preparation of 6-methoxybenzo[b]thiophene
A solution of 1-[(2,2-diethoxy)ethylthio]-3-methoxybenzene (13.0 g, 0.051 mol) in CH2Cl2 (100 ml) was added dropwise to a solution of BF3.Et2O (6.7 ml, 0.054 mol) in CH2Cl2 (1000 ml) at room temperature under a nitrogen atmosphere. The reaction mixture was stirred for 0.5 hours, treated with aqueous NaHCO3 solution, and stirred until both phases were clear. The CH2Cl2 layer was separated, and the aqueous layer was extracted with CH2Cl2. The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo to give 8.68 g of an approximately 10:1 mixture of 6- and 4-methoxybenzo[b]thiophene as a dark brown oil. Purification by vacuum distillation (bp=65°-7° C. at 0.3 mmHg) gave 5.58 g of pale yellow oil. Major isomer: 'H NMR, δ :(CDCl3):3.85 (3H, s, --OCH3); 6.98 (1H, dd, J=4.5, H5); 7.23 (2H, s, H2, H3); 7.35 (1H, d, J=1.5, H7); 7.68 (1H, d, J=4.5, H4).

reactant | 1-[(2,2-diethoxy)ethylthio]-3-methoxybenzene | 0.051 mol, 13.0 g | C(C)OC(CSC1=CC(=CC=C1)OC)OCC | C13H20O3S
reactant | BF3.Et2O | 0.054 mol, 6.7 ml | B(F)(F)F.CCOCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1000 ml | C(Cl)Cl | CH2Cl2
product | 6-methoxybenzo[b]thiophene | 5.58 g | COC=1C=CC2=C(SC=C2)C1 | C9H8OS
